US07763731B2
4-Methyl-2-nitro-benzoic acid
A suspension of 4-methyl-2-nitrobenzonitrile (5.00 g, 30.8 mmol) and 50% H2SO4 (25 mL) in HOAc (25 mL) was heated to reflux for 22 h. The reaction mixture was poured into ice-water (150 g) under stirring and stirred at 5° C. for 30 minutes. The deposited crystals were collected by filtration, washed with H2O and n-hexane, and dried at 40° C. in vacuum to give the title compound as pale brown crystal (4.85 g, 87%).

reactant | 4-methyl-2-nitrobenzonitrile | 30.8 mmol, 5.00 g | CC1=CC(=C(C#N)C=C1)[N+](=O)[O-] | C8H6N2O2
reactant | H2SO4 | 25 mL | OS(=O)(=O)O | H2O4S
reactant | HOAc | 25 mL | CC(=O)O | C2H4O2
product | 4-Methyl-2-nitro-benzoic acid | 4.85 g, 87% | CC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H7NO4
